US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[({[3-methoxyphenyl]amino}carbonyl)-amino]-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF and 0.2 ml of DMF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 31.9 mg (0.21 mmol) of 3-methoxyphenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of methanol and 1 N hydrochloric acid (2:1), again concentrated and dried under high vacuum. 17 mg (32.7% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 3-methoxyphenyl isocyanate | 0.21 mmol, 31.9 mg | COC=1C=C(C=CC1)N=C=O | C8H7NO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[({[3-methoxyphenyl]amino}carbonyl)-amino]-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC(=CC=C1)OC | InChI=1S/C24H26N4O3S.ClH/c1-31-19-4-2-3-17(12-19)25-24(30)26-18-6-5-16-11-22(32-21(16)13-18)23(29)27-20-14-28-9-7-15(20)8-10-28;/h2-6,11-13,15,20H,7-10,14H2,1H3,(H,27,29)(H2,25,26,30);1H/t20-;/m0./s1
